US07589117B2
c) 3-Hydroxy-2-(2,2,2-trifluoro-ethyl)-5-trifluoromethyl-2,3-dihydro-isoindol-1-one
5.5 g of 2-(2,2,2-trifluoro-ethyl)-5-trifluoromethyl-isoindole-1,3-dione were dissolved using 150 ml MeOH(anhydrous) and 1.0 g of KBH4 added at ambient temperature. The mixture was left at ambient temperature for 16 h, cooled to 0° C. and poured into 100 ml of water at 0° C. The methanol was removed in vacuo. The aqueous layer was extracted three times using 100 ml of CH2Cl2 each. The organic layer was dried over MgSO4 and the solvent was removed in vacuo to yield 4.2 g of a viscous oil (Rf(DIP)=0.37, MS (DCI): 300 (M+1)+).

reactant | 2-(2,2,2-trifluoro-ethyl)-5-trifluoromethyl-isoindole-1,3-dione | 5.5 g | FC(CN1C(C2=CC=C(C=C2C1=O)C(F)(F)F)=O)(F)F | C11H5F6NO2
solvent | water | 100 ml | O | H2O
product | 3-Hydroxy-2-(2,2,2-trifluoro-ethyl)-5-trifluoromethyl-2,3-dihydro-isoindol-1-one | 4.2 g | OC1N(C(C2=CC=C(C=C12)C(F)(F)F)=O)CC(F)(F)F | C11H7F6NO2
